US05013845
D-lactic acid O-mesylate, namely (2R)-2-(methanesulfonyloxy)propionic acid (2.5 g) and t-butyl (4S)-1-methyl-2-oxoimidazolidine-4-carboxylate (3.42 g) were treated similarly as in Example 1 - (1), and the crude product was purified by silica gel chromatography (chloroform:ethyl acetate=1:2) and crystallized from n-hexane to give t-butyl (4S)-1-methyl-3-[(2R)-2-(methanesulfonyloxy)-propionyl]-2-oxoimidazolidine-4carboxylate (3.95 g). Yield: 75.8%., m.p.: 97°-100° C.

reactant | (2R)-2-(methanesulfonyloxy)propionic acid | 2.5 g | CS(=O)(=O)O[C@@H](C(=O)O)C | C4H8O5S
reactant | t-butyl (4S)-1-methyl-2-oxoimidazolidine-4-carboxylate | 3.42 g | CN1C(N[C@@H](C1)C(=O)OC(C)(C)C)=O | C9H16N2O3
product | t-butyl (4S)-1-methyl-3-[(2R)-2-(methanesulfonyloxy)-propionyl]-2-oxoimidazolidine-4carboxylate | 3.95 g, Yield: 75.8% | CN1C(N([C@@H](C1)C(=O)OC(C)(C)C)C([C@@H](C)OS(=O)(=O)C)=O)=O | C13H22N2O7S
